US06380387B1
A mixture of uracil (28.6 mmol, 3.2 g) and iodine monochloride (49.2 mmol, 7.988 g) in methanol (120 mL) was refluxed for 40 hr. The solvent was removed under vacuum and the residue was crystallized from ethanol:water (1:1, 150 mL) and stored in the refrigerator for 3 h. The resulting needles were collected by filtration and were washed with ethanol:water (1:1 mixture, 50 mL), water (30 mL), hexane (30 mL) and then dried in air to obtain 5.47 g (80%) of 5-iodo uracil as a white needles (mp 278-282° C., Lit. 274-276° C., Synthetic communication 1988, 18, 855-867). EI-HRMS m/e calcd for C4H3IN2O2 (M+) 237.9239, found 237.9244.

reactant | uracil | 28.6 mmol, 3.2 g | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | iodine monochloride | 49.2 mmol, 7.988 g | ICl | ClI
solvent | methanol | 120 mL | CO | CH4O
product | 5-iodo uracil | 5.47 g, 80% | IC=1C(NC(NC1)=O)=O | C4H3IN2O2
